US08937183B2
Synthesis of (4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-1-yl)methanol (1203-44)
4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthoic acid (2.5 g, 8.39 mmol) was dissolved in anhydrous THF. The solution was cooled down in an ice-water bath. Borane solution (1.00M in THF, 25 ml, 25 mmol) was added dropwise. After addition, the reaction was stirred at room temperature for 4 hours. Methanol (20 ml) was added with ice-water batch to quench the reaction until no gas was produced. The solvent was evaporated, and the residue was extracted with ethyl acetate/water to give the product as a white solid (1.79 g, 75%). 1H NMR (300 MHz, CD2Cl2, δ): 8.80 (m, 1H), 8.10 (m, 1H), 8.04 (m, 1H), 7.57 (m, 3H), 5.18 (s, 2H), 1.43 (s, 12H).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthoic acid | 8.39 mmol, 2.5 g | CC1(OB(OC1(C)C)C1=CC=C(C2=CC=CC=C12)C(=O)O)C | C17H19BO4
reactant | Borane | 25 mmol, 1.00M, 25 ml | B | BH3
reactant | Methanol | 20 ml | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | (4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-1-yl)methanol | 1.79 g, 75% | CC1(OB(OC1(C)C)C1=CC=C(C2=CC=CC=C12)CO)C | C17H21BO3
